US07732596B2
2,3,4,6-Tetra-O-benzyl-1-[7-(4-methylbenzyl)benzo[b]thiophen-2-yl]-D-glucopyranose
To a solution of 7-(4-methylbenzyl)benzo[b]thiophene (0.57 g) in tetrahydrofuran (10 mL) was added n-butyllithium (2.71 mol/L tetrahydrofuran solution, 0.88 mL) at −78° C. under an argon atmosphere. The mixture was stirred at the same temperature for 30 minutes and a solution of 2,3,4,6-tetra-O-benzyl-D-glucono-1,5-lactone (1.2 g) in tetrahydrofuran (5 mL) was added to the mixture. The reaction mixture was warmed to 0° C. and stirred for 10 minutes. The reaction mixture was poured into a saturated ammonium chloride aqueous solution, and the mixture was extracted with diethyl ether. The organic layer washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1) to give the title compound (1.2 g).

reactant | 7-(4-methylbenzyl)benzo[b]thiophene | 0.57 g | CC1=CC=C(CC2=CC=CC3=C2SC=C3)C=C1 | C16H14S
reactant | n-butyllithium | 2.71 mol/L, 0.88 mL | C(CCC)[Li]
reactant | 2,3,4,6-tetra-O-benzyl-D-glucono-1,5-lactone | 1.2 g | C(C1=CC=CC=C1)O[C@H]1C(=O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H34O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2,3,4,6-Tetra-O-benzyl-1-[7-(4-methylbenzyl)benzo[b]thiophen-2-yl]-D-glucopyranose | 1.2 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC2=C(S1)C(=CC=C2)CC2=CC=C(C=C2)C | C50H48O6S
